US06495576B2
N-[1-(1H-1,2,3-benzotriazol-1-yl)-3,3-dimethylbutyl]benzamide
A suspension of benzamide, 3,3-dimethyl-butyraldehyde, and benzotriazole were processed as described in Example 18B to provide the desired product.

reactant | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | 3,3-dimethyl-butyraldehyde | CC(CC=O)(C)C | C6H12O
reactant | benzotriazole | N1N=NC2=C1C=CC=C2 | C6H5N3
product | N-[1-(1H-1,2,3-benzotriazol-1-yl)-3,3-dimethylbutyl]benzamide | N1(N=NC2=C1C=CC=C2)C(CC(C)(C)C)NC(C2=CC=CC=C2)=O | C19H22N4O
